US07074799B2
Stir the mixture of 2-amino-4-(3-trifluoromethyl-pyridin-2-yl)-benzoic acid (1.95 mmol) in HCONH2 (10 mL) for 4 hours at 145° C. Cool to room temperature, dilute with 20 ml of water, and collect the precipitate to give 7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-ol.

reactant | 2-amino-4-(3-trifluoromethyl-pyridin-2-yl)-benzoic acid | 1.95 mmol | NC1=C(C(=O)O)C=CC(=C1)C1=NC=CC=C1C(F)(F)F | C13H9F3N2O2
reactant | HCONH2 | 10 mL | C(=O)N | CH3NO
solvent | water | 20 ml | O | H2O
product | 7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-ol | FC(C=1C(=NC=CC1)C1=CC=C2C(=NC=NC2=C1)O)(F)F | C14H8F3N3O
